US07067540B2
2-[4-(benzyloxy)-3-bromo-2-oxopyridin-1(2H)-yl]benzonitrile
Preparation of 2-[4-(benzyloxy)-3-bromo-2-oxopyridin-1(2H)-yl]benzonitrile 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one(100 mg, 0.36 mmol) was suspended in dimethylsulfoxide (5 mL), cesium carbonate (375 mg, 1.15 mmol) was added and the reaction was shaken for 5 minutes. 4-Fluorobenzonitrile (52 mg, 0.43 mmol) was then added and the reaction was heated to 80° C. with stirring. Reaction was monitored by LC/MS, and after 4 h was heated to 100° C. and stirred for 16 hours. The reaction mixture was partitioned between water and ethyl acetate and extracted with ethyl acetate (5×50 mL). The organic extracts were combined, washed with brine, dried over Na2SO4, and filtered. The filtrate was concentrated to an oil, and purified by chromatography (silica gel, hexane/ethyl acetate) to yield a white solid (18 mg, 13%). 1H NMR (400 MHz, CDCl3) δ 7.81 (dd, J=1.2, 8.4 Hz, 1H), 7.73 (dt, J=1.2, 8.0 Hz, 1H), 7.57 (dt, J -0.8, 8.0 Hz, 1H), 7.50-7.36 (m, 6H), 7.27 (d, J=8.0 Hz, 1H), 6.28 (d, J=8.0 Hz, 1H); 5.31 (s, 2H). ES HRMS m/z 381.0249 (M+H C19H13BrN2O2 requires 381.0233).

reactant | 2-[4-(benzyloxy)-3-bromo-2-oxopyridin-1(2H)-yl]benzonitrile 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one | 0.36 mmol, 100 mg | BrC=1C(NC(=CC1OCC1=C(C=C(C=C1)F)F)C)=O.C(C1=CC=CC=C1)OC1=C(C(N(C=C1)C1=C(C#N)C=CC=C1)=O)Br
reactant | cesium carbonate | 1.15 mmol, 375 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-Fluorobenzonitrile | 0.43 mmol, 52 mg | FC1=CC=C(C#N)C=C1 | C7H4FN
solvent | dimethylsulfoxide | 5 mL | CS(=O)C | C2H6OS
product | 2-[4-(benzyloxy)-3-bromo-2-oxopyridin-1(2H)-yl]benzonitrile | 18 mg, 13% | C(C1=CC=CC=C1)OC1=C(C(N(C=C1)C1=C(C#N)C=CC=C1)=O)Br | C19H13BrN2O2
